US08703941B2
A solution of tert-butyl N-[4-([7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]amino)cyclohexyl]carbamate (1.1 g, 2.83 mmol, 1.00 equiv) in tetrahydrofuran (20 mL) was added into a solution of lithium aluminium tetrahydride (530 mg, 13.95 mmol, 5.00 equiv) in tetrahydrofuran (30 mL) dropwise with stirring at room temperature. The resulting solution was heated to reflux for 30 min in an oil bath. The reaction was then quenched by the addition of 20 mL of tetrahydrofuran/water. The solids were filtered out. The filtrate was extracted with 3×100 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum to give 0.86 g (crude) of 1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8), 2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine as yellow oil. LC-MS: (ES, m/z): 303 [M+H]+

reactant | tert-butyl N-[4-([7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]amino)cyclohexyl]carbamate | 2.83 mmol, 1.1 g, 1.00 equiv | C1=2C=3CCCC3SC2N=CN=C1NC1CCC(CC1)NC(OC(C)(C)C)=O | C20H28N4O2S
reactant | lithium aluminium tetrahydride | 13.95 mmol, 530 mg, 5.00 equiv | [H-].[H-].[H-].[H-].[Al+3].[Li+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8), 2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine | 0.86 g | CNC1CCC(CC1)NC1=NC=NC=2SC=3CCCC3C12 | C16H22N4S
